US08071807B2
Step 5: [3-Chloro-5-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester
(3-Chloro-5-hydroxy-phenyl)-acetic acid methyl ester (2.9 g, 14.5 mmol), 2-fluoro-5-nitrobenzaldehyde (2.7 g, 15.9 mmol), and potassium carbonate (4.0 g, 28.9 mmol) were combined in 1,4-dioxane (20 mL) and stirred at 100° C. overnight. Once no starting material was seen by analyical LCMS and tlc, the mixture was worked up with EtOAc and 10% aqueous HCl, and the crude material was purified by silica gel chromatography to give the title compound.

reactant | (3-Chloro-5-hydroxy-phenyl)-acetic acid methyl ester | 14.5 mmol, 2.9 g | COC(CC1=CC(=CC(=C1)O)Cl)=O | C9H9ClO3
reactant | 2-fluoro-5-nitrobenzaldehyde | 15.9 mmol, 2.7 g | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | potassium carbonate | 28.9 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [3-Chloro-5-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C=O)Cl)=O | C16H12ClNO6
